* C:\glade6_win64\Progetto\LTSpice\Folded_cascode_tb.asc
XX1 N001 N003 N006 out N002 folded_cascode
I1 0 N006 11µ
V1 N002 0 2.5
Vd N004 0 0
Vc N005 0 1.25
E1 N003 N005 N004 0 -0.5
E2 N001 N005 N004 0 0.5

* block symbol definitions
.subckt folded_cascode Iin1 Iin2 Ib out Vdd
M14 Ib Ib 0 0 N_PSM025 l=1u w=2.15u
M15 Vk2 Vk2 Vdd Vdd P_PSM025 l=1u w=12.45u
M13 Vk2 Ib 0 0 N_PSM025 l=1u w=6.45u
M12 Vg16 Ib 0 0 N_PSM025 l=1u w=2.15u
M16 Vg16 Vg16 Vdd Vdd P_PSM025 l=1u w=26u
M3 Vs7 Vg16 Vdd Vdd P_PSM025 l=1u w=52u
M4 Vs6 Vg16 Vdd Vdd P_PSM025 l=1u w=52u
M1 Vs7 Iin1 Vg1 0 N_PSM025 l=1u w=2.15u
M2 Vs6 Iin2 Vg1 0 N_PSM025 l=1u w=2.15u
M5 Vg1 Ib 0 0 N_PSM025 l=1u w=4.3u
M6 Vg8 Vk2 Vs6 Vdd P_PSM025 l=1u w=26u
M7 out Vk2 Vs7 Vdd P_PSM025 l=1u w=26u
M8 Vg8 Vg8 Vs8 0 N_PSM025 l=1u w=2.15u
M9 out Vg8 Vs9 0 N_PSM025 l=1u w=2.15u
M10 Vs8 Vg10 0 0 N_PSM025 l=1u w=2.15u
M11 Vs9 Vg10 0 0 N_PSM025 l=1u w=2.15u
.ends folded_cascode

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\alexp\AppData\Local\LTspice\lib\cmp\standard.mos
.lib PSM025.mos
.op
.backanno
.end
